US04094662
4-(4-tert-butyl-2-nitrophenyl)morpholine
4-tert-Butyl-2-nitrochlorobenzene (19 g.; 68 mmoles) and morpholine (30 g.; 340 mmoles) were heated at 90° C. for 40 hours. The mixture was then poured into ice water. The yellow solid precipitate was collected by filtration (95% yield) and found to melt at 58°-60° C.

reactant | 4-tert-Butyl-2-nitrochlorobenzene | 68 mmoles, 19 g | C(C)(C)(C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C10H12ClNO2
reactant | morpholine | 340 mmoles, 30 g | N1CCOCC1 | C4H9NO
product | 4-(4-tert-butyl-2-nitrophenyl)morpholine | 95% yield | C(C)(C)(C)C1=CC(=C(C=C1)N1CCOCC1)[N+](=O)[O-] | C14H20N2O3
